US04088775
(2RS,3aR,4R,5R,6aS)-4-[(E)-3,3-ethylenedioxy-3-(4-biphenylyl)-1-propenyl]-2,5-dihydroxyperhydrocyclopenta[b]furan.
At 15°, 82 ml. of a solution of methanesulfinylmethylsodium in absolute dimethyl sulfoxide (prepared from 4.08 g. of 50% sodium hydride suspension in mineral oil in 82 ml. of dimethyl sulfoxide and heating to 70° for one hour) was added dropwise to a solution of 21 g. of 4-carboxybutyltriphenylphosphonium bromide in 80 ml. of absolute dimethyl sulfoxide. The mixture was agitated for 30 minutes at room temperature. The red ylene solution was dropped at 15° to a solution of 3.03 g. of (2RS,3aR,4R,5R,6aS)-4-[(E)-3,3-ethylenedioxy-4-phenoxy-1-butenyl]-2,5-dihydroxyperhydrocyclopenta[b]furan (prepared according to Example 1[b]) in 40 ml. of absolute dimethyl sulfoxide and stirred for 2 hours at 50°. After removing the solvent by evaporation under vacuum (0.01 torr [mm. Hg]), the residue was dissolved in 100 ml. of water, extracted three times with respectively 80 ml. of ether, and the ether extract was discarded. The aqueous phase was adjusted to pH 4-5 with 10% citric acid solution and extracted four times with a mixture of ether/hexane (2 + 1). The organic phase was shaken with brine, dried with magnesium sulfate, and evaporated under vacuum. After chromatography of the residue on silica gel (chloroform/isopropanol = 5 + 1), 2.25 g. of the title compound was obtained as a colorless oil. IR: 3600-3400,1720,1600,1490,970 cm-1.

reactant | methanesulfinylmethylsodium | CS(=O)C[Na]
reactant | 4-carboxybutyltriphenylphosphonium bromide | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | (2RS,3aR,4R,5R,6aS)-4-[(E)-3,3-ethylenedioxy-4-phenoxy-1-butenyl]-2,5-dihydroxyperhydrocyclopenta[b]furan | C1OC(/C=C/[C@H]2[C@@H](C[C@@H]3OC(C[C@@H]32)O)O)(COC3=CC=CC=C3)OC1 | C19H24O6
solvent | dimethyl sulfoxide | 82 ml, 4.08 g | CS(=O)C | C2H6OS
product | (2RS,3aR,4R,5R,6aS)-4-[(E)-3,3-ethylenedioxy-3-(4-biphenylyl)-1-propenyl]-2,5-dihydroxyperhydrocyclopenta[b]furan | C1OC(/C=C/[C@H]2[C@@H](C[C@@H]3OC(C[C@@H]32)O)O)(C3=CC=C(C=C3)C3=CC=CC=C3)OC1 | C24H26O5
